US07902394B2
(c) 1-Chloro-4-iodo-2-vinylbenzene
Ph3PMeBr (9.10 g, 25.47 mmol) was added to anhydrous THF (34 mL) under N2 and then cooled to −78° C. KHMDS (1 M solution, 25.47 mL, 25.47 mmol) was slowly added to the solution and the resultant solution was stirred at −78° C. for 1 h. 2-chloro-5-iodobenzaldehyde (4.86 g, 22.14 mmol) in THF (10 mL) was then slowly added and the resultant solution allowed to warm slowly to room temperature overnight. After 16 h, saturated aqueous NH4Cl was added and the crude product extracted with EtOAc (3×). The combined organic extracts were dried (Na2SO4), concentrated, and purified by Biotage chromatography (0%-20% EtOAc/hexanes) to afford 4.32 g of product as an oil that solidifies (90%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.87 (d, J=2.27 Hz, 1 H) 7.50 (dd, J=8.34, 2.27 Hz, 1 H) 7.09 (d, J=8.34 Hz, 1 H) 6.99 (dd, J=17.56, 10.99 Hz, 1 H) 5.74 (d, J=17.43 Hz, 1 H) 5.43 (d, J=11.12 Hz, 1 H).

reactant | KHMDS | 25.47 mmol, 1 M, 25.47 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-chloro-5-iodobenzaldehyde | 22.14 mmol, 4.86 g | ClC1=C(C=O)C=C(C=C1)I | C7H4ClIO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 34 mL | C1CCOC1 | C4H8O
product | 1-Chloro-4-iodo-2-vinylbenzene | 4.32 g | ClC1=C(C=C(C=C1)I)C=C | C8H6ClI
